US04871730
Formic acid (0.4 ml) and acetic anhydride (1 ml) were stirred at 40° C. for 30 minutes. The reaction mixture was cooled in an ice-water bath and added dropwise to a mixture of benzhydryl 7-amino-3-hydroxycepham-4-carboxylate (1.0 g) in methylene chloride (30 ml) at 3° C.. The mixture was stirred at 3° C. for 10 minutes and adjusted to pH 7.0 with 5% aqueous solution of sodium bicarbonate, washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was triturated with diisopropyl ether to give benzhydryl 7-formamido-3-hydroxycepham-4-carboxylate (1.05 g) as powder.

reactant | Formic acid | 0.4 ml | C(=O)O | CH2O2
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | benzhydryl 7-amino-3-hydroxycepham-4-carboxylate | 1.0 g | NC1[C@@H]2N(C(C(CS2)O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C20H20N2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | benzhydryl 7-formamido-3-hydroxycepham-4-carboxylate | 1.05 g | C(=O)NC1[C@@H]2N(C(C(CS2)O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C21H20N2O5S
